US06569885B1
Preparation of 1-Benzyl-3,5-dimethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
Similar to Example 1, equimolar amounts of benzylhydrazine dihydrochloride and 2-acetyl-3-oxo-butyric acid ethyl ester were combined in a solution of 50% pyridine in ethanol. The resulting oil was determined to be the named product by 1H-NMR (CDCl3, ppm): 1.35 t (3H); 2.44 s (3H); 2.45 s (3H); 4.38 a (2H); 5.25 s (2H); 7.08 d (2H); 7.29 m (3H).

reactant | benzylhydrazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | 2-acetyl-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)C(C)=O)=O | C8H12O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 1-Benzyl-3,5-dimethyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(=NN(C1C)CC1=CC=CC=C1)C | C15H18N2O2
